US08017608B2
2-Methoxy-5-[4-methyl-2-(pyrazin-2-ylamino)-thiazol-5-yl]-benzenesulfonamide
2-Methoxy-5-(2-oxo-propyl)-benzenesulfonamide (S. Sakurai et al. Chem. Pharm. Bull. 40(6) 1443-1451 (1992)) (0.3 g, 1.23 mmol), pyrazin-2-yl-thiourea (0.19 g, 1.23 mmol), iodine (0.31 g, 1.23 mmol) in pyridine (2.5 ml) is stirred at 60° C. for 20 hours. The mixture is concentrated. To the residue is added water, the precipitate is collected and recrystallised from ethanol to give the titled compound (0.103 g). m.p. 378.2° C.

reactant | 2-Methoxy-5-(2-oxo-propyl)-benzenesulfonamide | 1.23 mmol, 0.3 g | COC1=C(C=C(C=C1)CC(C)=O)S(=O)(=O)N | C10H13NO4S
reactant | pyrazin-2-yl-thiourea | 1.23 mmol, 0.19 g | N1=C(C=NC=C1)NC(=S)N | C5H6N4S
reactant | iodine | 1.23 mmol, 0.31 g | II | I2
solvent | pyridine | 2.5 ml | N1=CC=CC=C1 | C5H5N
product | 2-Methoxy-5-[4-methyl-2-(pyrazin-2-ylamino)-thiazol-5-yl]-benzenesulfonamide | 0.103 g | COC1=C(C=C(C=C1)C1=C(N=C(S1)NC1=NC=CN=C1)C)S(=O)(=O)N | C15H15N5O3S2
